US07402595B2
2-(4-tert-butoxycarbonylbenzyl)-6-dimethylcarbamoyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid 3-methyl ester (300 mg) in THF (6 ml) were added methyl ammonium chloride (150 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (230 mg), 1-hydroxy-1H-benzotriazole monohydrate (180 mg) and triethylamine (1 ml) at room temperature. The reaction mixture was stirred at 40° C. for 12 hrs. Water and 1N-hydrochloric acid were added to acidify the aqueous layer and the mixture was extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was crystallized from methanol to give the title compound (160 mg).

reactant | 2-(4-tert-butoxycarbonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid 3-methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)O)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C30H27NO7
reactant | methyl ammonium chloride | 150 mg | [Cl-].C[NH3+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 230 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 180 mg | O.ON1N=NC2=C1C=CC=C2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-butoxycarbonylbenzyl)-6-dimethylcarbamoyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 160 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(N(C)C)=O)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C32H32N2O6
